US07541372B2
b) 4,4-Difluoro-1-{4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-piperidine
To a solution of 2-(4-iodo-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole (200 mg, 0.47 mmol) in toluene (2 mL) were added under an atmosphere of nitrogen 2-(dicyclohexylphosphino)biphenyl (15 mg, 0.04 mmol), tris(dibenzylideneacetone)di-palladium (0) chloroform complex (15 mg, 0.01 mmol), sodium tert-butoxide (107 mg, 1.12 mmol) and 4,4-difluoropiperidine hydrochloride (88 mg, 0.56 mmol). The reaction mixture was stirred for 1 h at 100° C. and was extracted with water (20 mL) and ethyl acetate (20 mL). The aqueous layer was extracted with ethyl acetate and the combined organic layers were washed with brine. Drying over sodium sulfate and purification by chromatography (SiO2, heptane:ethyl acetate=80:20 to 50:50) afforded the title compound (138 mg, 70%) as a light yellow solid. MS: m/e=423.3 [M+H]+.

reactant | 2-(4-iodo-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 0.47 mmol, 200 mg | IC1=CC=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1 | C18H12IN3O2
reactant | sodium tert-butoxide | 1.12 mmol, 107 mg | CC(C)([O-])C.[Na+]
reactant | 4,4-difluoropiperidine hydrochloride | 0.56 mmol, 88 mg | Cl.FC1(CCNCC1)F
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 4,4-Difluoro-1-{4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-piperidine | 138 mg, 70% | FC1(CCN(CC1)C1=CC=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)F | C23H20F2N4O2
